US04891375
C. 1-Benzyl-4-(6-fluoronaphthyl)-piperazine
To a 125 ml round-bottomed flask equipped with condenser and N2 inlet were added 1.0 g (6.21 mmol) of 6-fluoro-1-amino naphthalene, 1.8 g (7.76 mmol) of N-benzyl bis(2-chloroethyl)amine, 3.3 ml (19.2 mmol) of diisopropylethylamine, and 50 ml isopropanol. The reaction was refluxed 24 hours, cooled, and evaporaated to an oil. The oil was taken up in ethyl acetate, washed with waterand brine, dried over sodium sulfate, and evaporated to an oil. The oil was chromatographed on silica gel using methylene chloride as eluent to afford 1.5 g (75.5%) of an oil.

reactant | 6-fluoro-1-amino naphthalene | 6.21 mmol, 1.0 g | FC=1C=C2C=CC=C(C2=CC1)N | C10H8FN
reactant | N-benzyl bis(2-chloroethyl)amine | 7.76 mmol, 1.8 g | C(C1=CC=CC=C1)N(CCCl)CCCl | C11H15Cl2N
reactant | diisopropylethylamine | 19.2 mmol, 3.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-4-(6-fluoronaphthyl)-piperazine | 1.5 g, 75.5% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=CC2=CC(=CC=C12)F | C21H21FN2
